US07816557B2
Racemic 4-(1-Hydroxy-hexyl)-benzoic acid methyl ester
This compound is made from 4-formyl-benzoic acid methyl ester and n-pentylmagnesium chloride following the general method exemplified in Preparation 1.

reactant | 4-formyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | n-pentylmagnesium chloride | C(CCCC)[Mg]Cl
product | Racemic 4-(1-Hydroxy-hexyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CCCCC)O)=O | C14H20O3
